US07902369B2
1) Manufacture of 7-iodo-[1,2,4]triazolo[4,3-a]pyridine
1 g of 2-fluoro-4-iodo-pyridine and 5 ml of hydrazine monohydrate were dissolved in 6 ml of acetonitrile, and the mixture was stirred at 80° C. for 2 hours, and the solvents were distilled outunder reduced pressure. 5 ml of dimethylformamide and 3 ml of ethyl orthoformate were added to the residues, stirred at 150° C. for 2 hours, cooled down to room temperature and the reaction was stopped after adding water. The products were extracted with chloroform, and after drying with anhydrous sodium sulfate, the solvents were distilled outunder reduced pressure. The obtained residues were washed with ethyl acetate and 680 g of the above compound was obtained as a white solid.

reactant | 2-fluoro-4-iodo-pyridine | 1 g | FC1=NC=CC(=C1)I | C5H3FIN
reactant | hydrazine monohydrate | 5 ml | O.NN
reactant | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 7-iodo-[1,2,4]triazolo[4,3-a]pyridine | 680 g | IC1=CC=2N(C=C1)C=NN2 | C6H4IN3
